US08222245B2
3-Cyano-N-hydroxy-2-methylbenzenecarboximidamide
A suspension of 2,6-dicyanotoluene (25.0 g, 176 mmol), hydroxylamine hydrochloride (73.0 g, 1.06 mol) and triethylamine (142 g, 1.41 mol) in chloroform (500 ml) was stirred at 50° C. for 7 h, then allowed to stand at room temperature overnight. The reaction mixture was cooled in ice, treated with 5M HCl to pH1 and extracted three times with chloroform. The aqueous was extracted with THF (×7), cooled in ice, raised to pH4 with 40% NaOH and extracted with THF (×3). The latter THF extracts were combined and evaporated to dryness to give a buff solid consisting of the product and approximately a third of an equivalent of triethylamine (11.0 g). 1H NMR (400 MHz, d4-MeOH) δ (inter alia) 7.70-7.76 (1H, m), 7.57-7.63 (1H, m), 7.35-7.62 (1H, m), 2.58 (3H, s); MS (ES) C9H9N3O requires 175; found 176 [M+H]+. The former seven extracts of THF were combined, evaporated to dryness and dissolved in water. The aqueous solution was extracted twice with chloroform, adjusted to pH4 and extracted with THF (×3). Evaporation of the combined THF extracts gave a further 4.5 g of product.

reactant | 2,6-dicyanotoluene | 176 mmol, 25.0 g | C(#N)C1=C(C(=CC=C1)C#N)C | C9H6N2
reactant | hydroxylamine hydrochloride | 1.06 mol, 73.0 g | Cl.NO
reactant | triethylamine | 1.41 mol, 142 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 5M | Cl | ClH
reactant | triethylamine | 11.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | C1CCOC1 | C4H8O
product | 3-Cyano-N-hydroxy-2-methylbenzenecarboximidamide | 4.5 g | C(#N)C=1C(=C(C=CC1)C(NO)=N)C | C9H9N3O
